US08486979B2
3-(2,3-difluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to the procedure of Example 1 using 2,3-difluoro-N′-hydroxybenzimidamide (Tyger Scientific) and nicotinoyl chloride hydrochloride (Aldrich). 1H NMR (300 MHz, DMSO-d6) δ 7.42-7.61 (m, 1 H), 7.67-7.85 (m, 2 H), 7.91-8.04 (m, 1 H), 8.57 (dt, J=8.1, 1.9 Hz, 1 H), 8.92 (dd, J=4.8, 1.6 Hz, 1 H), 9.36 (dd, J=2.4, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 260 (M+H)+.

reactant | 2,3-difluoro-N′-hydroxybenzimidamide | FC1=C(C(N)=NO)C=CC=C1F | C7H6F2N2O
reactant | nicotinoyl chloride hydrochloride | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | NH3 | N | H3N
product | 3-(2,3-difluorophenyl)-5-(pyridin-3-yl)-1,2,4-oxadiazole | FC1=C(C=CC=C1F)C1=NOC(=N1)C=1C=NC=CC1 | C13H7F2N3O
